US07335799B2
Under nitrogen atmosphere, LiAlH4 (2.2 g, 58 mmol) was suspended in anhydrous MTBE (250 mL) and cooled with an ice/water bath. 2,2,14,14-Tetramethyl-8-(tetrahydropyran-2-yloxy)-pentadecanedioic acid diethyl ester (12.0 g, 24.7 mmol) in anhydrous MTBE (100 mL) was added dropwise over 1.5 h. This mixture was left overnight at ambient temperature. After the reaction was completed, deionized water (4 mL) was added followed by 20% aqueous NaOH solution (5 mL) and water (14 mL). The ether solution was decanted from the formed white residue. The residue was washed with MTBE (4×20 mL) and the combined ether solutions were dried over MgSO4. The solvent was removed under reduced pressure to give crude 2,2,14,14-tetramethyl-8-(tetrahydropyran-2-yloxy)-pentadecane-1,15-diol as a colorless oil (8.9 g, 90%), which was used without further purification. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 4.72-4.59 (m, 1H), 4.03-3.84 (m, 1H), 3.69-3.38 (m, 2H), 3.31 (s, 4H), 2.00-1.15 (m, 28H), 0.87 (s, 12H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm): 97.38, 76.57, 71.83, 62.65, 38.55, 34.96, 34.84, 33.33, 31.17, 30.75, 30.63, 26.92, 25.52, 24.95, 23.84, 23.70, 19.96. HRMS (EL, POS): Calcd for C24H48O4 (M+): 400.3553, found: 400.3564.

reactant | LiAlH4 | 58 mmol, 2.2 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2,2,14,14-Tetramethyl-8-(tetrahydropyran-2-yloxy)-pentadecanedioic acid diethyl ester | 24.7 mmol, 12.0 g | C(C)OC(C(CCCCCC(CCCCCC(C(=O)OCC)(C)C)OC1OCCCC1)(C)C)=O | C28H52O6
reactant | water | 4 mL | O | H2O
reactant | NaOH | 5 mL | [OH-].[Na+]
reactant | water | 14 mL | O | H2O
solvent | MTBE | 250 mL | CC(C)(C)OC | C5H12O
solvent | MTBE | 100 mL | CC(C)(C)OC | C5H12O
product | 2,2,14,14-tetramethyl-8-(tetrahydropyran-2-yloxy)-pentadecane-1,15-diol | 8.9 g, 90% | CC(CO)(CCCCCC(CCCCCC(CO)(C)C)OC1OCCCC1)C | C24H48O4
